US05362848
Sodium hydride (50% dispersion in mineral oil, 29.25 g, 0.609 mol) was washed twice with hexanes and was suspended in 350 mL of DMF. Then, butane-1,4-diol (26.15 g, 0.290 mol) was added dropwise over 20 min while hydrogen gas was evolved and a beige solid precipitated. The mixture was stirred for 30 min and a solution of 3-hydroxymethyl-3-methyloxetane p-toluenesulfonate (148.58 g, 0.58 mol) in 200 mL of DMF was added. The mixture was heated to 60° C. for 24 h and 100° C. for 6 h when 1H NMR analysis of an aliquot showed that the starting sulfonate had been consumed. The mixture was poured into 600 mL of water and extracted with three portions of 200 mL of methylene chloride. The combined organic extracts were washed with three portions of 200 mL of water, dried over magnesium sulfate, and evaporated to give 66.5 g, representing an 84% yield of 1,4-bis-[(3-methyl-3-oxetanyl)methyloxy]butane as an oil containing DMF (4%). The oil was purified by bulb-to-bulb distillation at 130° C. and 0.1-mm of pressure to give 60.74 g, representing a 76.7% yield, of analytically pure ether.

reactant | Sodium hydride | 0.609 mol, 29.25 g | [H-].[Na+]
reactant | butane-1,4-diol | 0.290 mol, 26.15 g | C(CCCO)O | C4H10O2
reactant | hydrogen | [H][H] | H2
reactant | 3-hydroxymethyl-3-methyloxetane p-toluenesulfonate | 0.58 mol, 148.58 g | C1(=CC=C(C=C1)S(=O)(=O)O)C.OCC1(COC1)C
reactant | DMF | 350 mL | CN(C)C=O | C3H7NO
reactant | DMF | 200 mL | CN(C)C=O | C3H7NO
product | 1,4-bis-[(3-methyl-3-oxetanyl)methyloxy]butane | 84% yield | CC1(COC1)COCCCCOCC1(COC1)C | C14H26O4
